US04780480
6-Methylbenzofuran (15 g) was dissolved in methanol (200 ml) containing 0.5 g of 10% palladium on carbon. This solution was shaken on a Paar hydrogenator under hydrogen at 40 psi. When hydrogen uptake was complete, the solution was filtered through Celite and the ethanol evaporated to yield 6-methyl-2,3-dihydrobenzofuran.

reactant | 6-Methylbenzofuran | 15 g | CC1=CC2=C(C=CO2)C=C1 | C9H8O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 6-methyl-2,3-dihydrobenzofuran | CC1=CC2=C(CCO2)C=C1 | C9H10O
